US07601716B2
1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (1.623 g) was reacted with benzyl bromide as in General Procedure 1 to give the title compound as a light yellow solid (38% yield). M.p. 225° C., LCMS: m/z=366.03 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 4.14 (s, 2H), 5.10 (s, 2H), 7.13 (s, 1H), 7.7.22-7.29 (m, 4H), 7.31-7.38 (m, 2H), 7.78 (s, 1H).

reactant | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 1.623 g | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 38% yield | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)I | C14H12IN3O
